US08809538B2
2,6-Diethoxynicotinic Acid
A solution of sodium ethoxide (23.3 mL) was added to a solution of 2,6-dichloronicotinic acid (2.00 g) in ethanol (10 mL). The mixture was heated in a sealed vessel at 170° C. for 1 day. After cooling, the mixture was concentrated in vacuo and the residue taken in water and acidified with hydrochloric acid to pH 3. The precipitated solids were collected by filtration and washed with water to obtain the title compound (1.75 g) having the following physical data.

reactant | sodium ethoxide | 23.3 mL | [O-]CC.[Na+]
reactant | 2,6-dichloronicotinic acid | 2.00 g | ClC1=C(C(=O)O)C=CC(=N1)Cl | C6H3Cl2NO2
reactant | ethanol | 10 mL | C(C)O | C2H6O
product | 2,6-Diethoxynicotinic Acid | 1.75 g | C(C)OC1=C(C(=O)O)C=CC(=N1)OCC | C10H13NO4
